US07842694B2
Methyl 3-{[(1S)-1-methylpropyl]oxy}-5-[(phenylmethyl)oxy]benzoate
A solution of DIAD (16.6 mL, 84.0 mmol) in dry THF (100 mL) was added dropwise to a cooled (ice bath) stirred mixture of methyl 3-hydroxy-5-{[phenylmethyl]oxy}benzoate (14.5 g, 56.2 mmol); R-(−)-sec-butanol (5 g, 67.0 mmol) and solid-supported triphenylphosphine (28 g, of 3 mmol per g loading, 84.0 mmol) in dry THF (400 mL) whilst maintaining the temperature below 10° C. The mixture was allowed to stir for 3 hours, then diluted with diethyl ether (800 mL) and filtered. Removal of the solvent gave a pale coloured oil, which was purified by column chromatography on silica, eluting with 25% ethyl acetate in hexane; to give the desired product (14.87 g).

reactant | DIAD | 84.0 mmol, 16.6 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | methyl 3-hydroxy-5-{[phenylmethyl]oxy}benzoate | 56.2 mmol, 14.5 g | OC=1C=C(C(=O)OC)C=C(C1)OCC1=CC=CC=C1 | C15H14O4
reactant | R-(−)-sec-butanol | 67.0 mmol, 5 g | CC[C@@H](C)O | C4H10O
reactant | triphenylphosphine | 84.0 mmol, 28 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 800 mL | C(C)OCC | C4H10O
product | Methyl 3-{[(1S)-1-methylpropyl]oxy}-5-[(phenylmethyl)oxy]benzoate | 14.87 g | C[C@@H](CC)OC=1C=C(C(=O)OC)C=C(C1)OCC1=CC=CC=C1 | C19H22O4
